US05470838
To a stirred suspension of 1 gram of uridine in 20 ml dry N, N-dimethylformamide is added 2.4 molar equivalents of imidazole followed by 1.2 molar equivalents of t-butyldimethylchlorosilane. The mixture is stirred with protection from moisture at room temperature for 20 hours, at which time the solvent is removed at 50° C. in vacuo. The residue is dissolved in 15 ml of ethyl acetate, the solution is washed with 10 ml of water, and the extract is dried with magnesium. sulfate and evaporated to give a syrup. Crystallization from 10 ml of hot chloroform, to which is adaed hexane to the point of opalescence, followed by slow cooling to room temperature, gives 5'-(t-butyldimethyisilyl) uridine.

reactant | uridine | 1 gram | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | N, N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5'-(t-butyldimethyisilyl) uridine | [Si](C)(C)(C(C)(C)C)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)O)O)O | C15H26N2O6Si
